US04275066
2-[(1,1'-Biphenyl)-4-yl]-1,2,4-triazolo[5,1-a]isoquinoline
A solution prepared from 0.075 g. of sodium dissolved in 20 ml of absolute ethanol was added to a suspension of 0.640 g. (0.004 mole) of 2-amino-isoquinoline-1(2H)-one and 0.720 g. (0.004 mole) of 4-phenyl-benzonitrile in 20 ml of absolute ethanol. The resulting mixture was refluxed for 30 minutes on an oil bath, then 15 ml. of ethylene glycol were added and the ethanol was distilled off by adjusting the temperature of the oil bath at about 150° C. After three hours the reaction mixture was cooled to room temperature whereby the title compound crystallized out. It was recovered by filtration and re-crystallized from a mixture of methylene chloride/diethyl ether=1/1. Yield 650 mg. M.p. 203°-5° C.

reactant | sodium | [Na] | Na
reactant | 2-amino-isoquinoline-1(2H)-one | 0.004 mole | NN1C(C2=CC=CC=C2C=C1)=O | C9H8N2O
reactant | 4-phenyl-benzonitrile | 0.004 mole | C1(=CC=CC=C1)C1=CC=C(C#N)C=C1 | C13H9N
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[(1,1'-Biphenyl)-4-yl]-1,2,4-triazolo[5,1-a]isoquinoline | C1(=CC=C(C=C1)C1=NN2C(C3=CC=CC=C3C=C2)=N1)C1=CC=CC=C1 | C22H15N3
